US08119676B2
(6-Chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)acetic acid (VIIIg)
1.92 g (5.02 mmol) of tert-butyl 3-tert-butoxycarbonylmethyl-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIg) were dissolved in dichloromethane (40 ml) and, while stirring at room temperature, trifluoroacetic acid (15 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 1.50 g (100%) of white solid

reactant | tert-butyl 3-tert-butoxycarbonylmethyl-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | 5.02 mmol, 1.92 g | C(C)(C)(C)OC(=O)CN1C(N(C2=C1C=C(C=C2)Cl)C(=O)OC(C)(C)C)=O | C18H23ClN2O5
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (6-Chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)acetic acid | ClC=1C=CC2=C(N(C(N2)=O)CC(=O)O)C1 | C9H7ClN2O3
